US05236950
To a mixture consisting of 10 0 g of phytol, 9.0 g of triethylamine and 50 ml of methylene chloride was added 7.2 g of nicotinic chloride at 30°-40° C. The resulting mixture was stirred for 2 hours at the same temperature. After the completion of the reaction, the reaction mixture was washed with dilute hydrochloric acid, 3% aqueous sodium hydrogencarbonate solution and water in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant; n-hexane:ethyl acetate=9:1) to obtain 12.1 g (yield: 90%) of oily phytyl nicotinate.

reactant | phytol | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | triethylamine | 9.0 g | C(C)N(CC)CC | C6H15N
reactant | nicotinic chloride | 7.2 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | phytyl nicotinate | 12.1 g, yield: 90% | C(C1=CN=CC=C1)(=O)OC\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C26H43NO2
